US04564479
The procedure described in Example 47 is repeated, but using 7.07 g (25 mmols) of 4-bromoiodobenzene and 1.83 g (27.5 mmols) of acrylonitrile. After a reaction time of 8 hours at 130° C., 3.95 g (19.0 mmols) of 4-bromocinnamonitrile are obtained, corresponding to a yield of 76% of theory (conversion figure 7600; Pd content 0.01 mol %).

reactant | 4-bromoiodobenzene | 25 mmols, 7.07 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | acrylonitrile | 27.5 mmols, 1.83 g | C(C=C)#N | C3H3N
catalyst | Pd | [Pd] | Pd
product | 4-bromocinnamonitrile | 19.0 mmols, 3.95 g, yield of 76% | BrC1=CC=C(C=CC#N)C=C1 | C9H6BrN
